US05763437
A mixture of N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-cyanophenyl)urea, hydroxyamie hydrochloride and triethylamine in dimethylsulfoxide was stirred at 70° C. overnight. Ethyl acetate and water weretadded to the reaction mixture and the organic layer was separated, washed with water and brion, dried over magnesium sulfate, and evaporated to dryness. The crude powder was purified by column chromatography on silica gel to afford N-[(3RS)-1-(3-azabicyclol[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-{3-[1-amino-1-hydroxyiminomethyl]-phenyl}urea.

reactant | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-cyanophenyl)urea | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)C#N)=O | C33H31FN6O3
reactant | hydrochloride | Cl | ClH
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | N'-{3-[1-amino-1-hydroxyiminomethyl]-phenyl}urea | NC(=NO)C=1C=C(C=CC1)NC(N)=O | C8H10N4O2
